US07179823B1
A mixture of 3-chloro-6-phenyl-2-pyridylmethanol (2.20 g), 5% palladium-carbon (1.10 g), triethylamine (1.4 ml), methanol (20 ml) and tetrahydrofuran (20 ml) was stirred at room temperature under a hydrogen atmosphere. After palladium-carbon was removed by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography to obtain 6-phenyl-2-pyridylmethanol (1.76 g, yield 95%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:5, volume ratio).

reactant | 3-chloro-6-phenyl-2-pyridylmethanol | 2.20 g | ClC=1C(=NC(=CC1)C1=CC=CC=C1)CO | C12H10ClNO
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 20 ml | CO | CH4O
catalyst | palladium-carbon | 1.10 g | [C].[Pd]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-phenyl-2-pyridylmethanol | 1.76 g, yield 95% | C1(=CC=CC=C1)C1=CC=CC(=N1)CO | C12H11NO
